US05925768
1-(1-Bromoethyl)-2,4-dichlorobenzene
15 ml of a 33% solution of HBr in AcOH are cooled to 0° C., 2 ml of 2,4-dichloro-1-(1-hydroxyethyl)benzene are added dropwise and the reaction mixture is stirred for 30 minutes at 0° C. and then for 3 hours at RT. It is poured into iced water and extracted with AcOEt, the organic phase is washed with saturated aqueous NaHCO3 solution, with water and with saturated NaCl solution and dried over MgSO4 and the solvent is evaporated off under vacuum to give 3.4 g of the expected product.

reactant | HBr | Br | BrH
reactant | 2,4-dichloro-1-(1-hydroxyethyl)benzene | 2 ml | ClC1=C(C=CC(=C1)Cl)C(C)O | C8H8Cl2O
reactant | water | O | H2O
solvent | AcOH | CC(=O)O | C2H4O2
product | 1-(1-Bromoethyl)-2,4-dichlorobenzene | 3.4 g | BrC(C)C1=C(C=C(C=C1)Cl)Cl | C8H7BrCl2
